US07144906B2
4-[6,6-Bis(hydroxymethyl)hexyl]-5-methyl-2-phenyloxazole
To 15 ml of dry ether, 637 mg of lithium aluminium hydride was added, and 2.6 g of diethyl [5-(5-methyl-2-phenyloxazol-4-yl)pentyl]malonate/10 ml of dry ether was added dropwise. After 2-hour-stirring at room temperature, the mixture was cooled with ice-cold water, and 14 ml of tetrahydrofuran/0.8 ml of water was added dropwise gradually. To the mixture were added 0.8 ml of an aqueous solution of 1 N sodium hydroxide and 2.3 ml of water, and stirred for 15 minutes and filtrated to remove insolubles. The filtrate was concentrated to provide 2.0 g of the objective compound as white crystals. M.p. 71-74° C.

reactant | ether | 15 ml | CCOCC | C4H10O
reactant | lithium aluminium hydride | 637 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethyl [5-(5-methyl-2-phenyloxazol-4-yl)pentyl]malonate | 10 ml, 2.6 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCCCCC(C(=O)OCC)C(=O)OCC | C22H29NO5
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | water | 2.3 ml | O | H2O
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
product | 4-[6,6-Bis(hydroxymethyl)hexyl]-5-methyl-2-phenyloxazole | 2.0 g | OCC(CCCCCC=1N=C(OC1C)C1=CC=CC=C1)CO | C18H25NO3
